US07622605B2
Step 3:1-Benzyloxy-2-ethyl-4-iodo-5-propoxy-benzene
A solution of iodine (2.82 g, 11.1 mmol) dissolved in CHCl3 (80 mL) was added dropwise to a stirred mixture of 2-benzyloxy-1-ethyl-4-propoxy-benzene (3 g, 11.1 mmol), silver trifluoroacetate (2.45 g, 11.1 mmol) in CHCl3 (20 mL). After the addition was complete the reaction mixture was stirred for 1 hour. The mixture was filtered through a pad of celite washing with CH2Cl2. The filtrate was washed with satd Na2S2O3, brine, dried over Na2SO4 and concentrated to a pale yellow solid (4.04 g, 92%). 1H NMR (400 MHz, CDCl3): δ 1.07 (t, J=7.3 Hz, 3H), 1.17 (t, J=7.6 Hz, 3H), 1.81 (m, 2H), 2.59 (q, J=7.6 Hz, 2H), 3.90 (t, J=6.3 Hz, 2H), 5.05 (s, 2H), 6.43 (s, 1H), 7.31-7.45 (m, 5H), 7.49 9s, 1H).

reactant | iodine | 11.1 mmol, 2.82 g | II | I2
reactant | 2-benzyloxy-1-ethyl-4-propoxy-benzene | 11.1 mmol, 3 g | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)OCCC)CC | C18H22O2
solvent | CHCl3 | 80 mL | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 20 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | silver trifluoroacetate | 11.1 mmol, 2.45 g | FC(C(=O)[O-])(F)F.[Ag+]
product | 1-Benzyloxy-2-ethyl-4-iodo-5-propoxy-benzene | C(C1=CC=CC=C1)OC1=C(C=C(C(=C1)OCCC)I)CC | C18H21IO2
